US04016160
7-Amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (6.89 g) was suspended in methylene chloride (60 ml) and bis(trimethylsilyl)acetamide (8.12 g) was added to the suspension to give a solution. A solution of dichloroacetyl chloride (3.24 g) in methylene chloride (10 ml) was added to the solution obtained above at -20° C under stirring. The mixture was stirred at the same temperature for 20 minutes and methylene chloride was distilled off from the mixture after addition of a little water. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride and dried. The solvent was distilled off from the solution under reduced pressure. The residue was pulverized by treating with ether and precipitates were collected by filtration and dried to give 7-dichloroacetamido-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (6.0 g).

reactant | 7-Amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 6.89 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
reactant | bis(trimethylsilyl)acetamide | 8.12 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | dichloroacetyl chloride | 3.24 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-dichloroacetamido-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 6.0 g | ClC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)Cl | C13H12Cl2N4O4S3
